US03962224
To a solution of diphenyl aminomethylphosphonate hydrochloride (134.8 g) in water (500 ml) is added dipotassium hydrogen phosphate (235.5 g) and water (1000 ml). The mixture is stirred until clear, then extracted with four portions of methylene chloride. The organic phase is dried over magnesium sulfate, filtered, and evaporated in vacuo to afford diphenyl aminomethylphosphonate.

reactant | diphenyl aminomethylphosphonate hydrochloride | 134.8 g | Cl.NCP(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O
reactant | dipotassium hydrogen phosphate | 235.5 g | P(=O)(O)([O-])[O-].[K+].[K+]
solvent | water | 500 ml | O | H2O
solvent | water | 1000 ml | O | H2O
product | diphenyl aminomethylphosphonate | NCP(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H14NO3P
